US08686048B2
Intermediate 49: 2′,3,5-trifluoro-5′-methoxybiphenyl-4-amine
The title compound (31 mg) was prepared from 4-bromo-2,6-difluoroaniline (100 mg, 0.48 mmol) and 2-fluoro-5-methoxyphenylboronic acid (106 mg, 0.62 mmol) as a pale-yellow solid.

reactant | 4-bromo-2,6-difluoroaniline | 0.48 mmol, 100 mg | BrC1=CC(=C(N)C(=C1)F)F | C6H4BrF2N
reactant | 2-fluoro-5-methoxyphenylboronic acid | 0.62 mmol, 106 mg | FC1=C(C=C(C=C1)OC)B(O)O | C7H8BFO3
product | 2′,3,5-trifluoro-5′-methoxybiphenyl-4-amine | 31 mg | FC1=C(C=C(C=C1)OC)C1=CC(=C(C(=C1)F)N)F | C13H10F3NO
